US07196087B2
Acetic acid 2-bromo-6-nitro-benzyl ester
To a solution of 1-bromo-2-bromomethyl-3-nitro-benzene (3.39 g, 11.53 mmol) in DMF (50 nml) was added KOAc (7.6 g, 77.4 mmol). The reaction was heated at 70° C. for an hour. After cooling to room temperature, the mixture was partitioned between water and ethyl acetate. The organic layer was washed with water and brine, and dried over MgSO4 Acetic acid 2-bromo-6-nitro-benzyl ester (3.1 g) was obtained as a brown oil after concentration under vacuum (˜100%). 1H NMR (CDCl3, 300 MHz) δ: 2.06(s, 3H), 5.46 (s, 2H), 7.377(t, J=8.1 Hz), 7.778(dd, J=1.23 Hz, 8.14 Hz), 7.856(dd, J=1.23 Hz, 8.07 Hz).

reactant | 1-bromo-2-bromomethyl-3-nitro-benzene | 11.53 mmol, 3.39 g | BrC1=C(C(=CC=C1)[N+](=O)[O-])CBr | C7H5Br2NO2
reactant | KOAc | 77.4 mmol, 7.6 g | CC(=O)[O-].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | Acetic acid 2-bromo-6-nitro-benzyl ester | BrC1=C(COC(C)=O)C(=CC=C1)[N+](=O)[O-] | C9H8BrNO4
